*The Modification from Bordodynov
.SUBCKT MCP6001 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* "Company") is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN "AS IS" CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* Macromodel for the MCP6001/2/4 op amp family:
*   MCP6001,MCP6002,MCP6004
*
* Revision History:
*   REV A: 21-Jun-02, Created model
*   REV B: 16-Jul-02, Improved output stage
*   REV C: 03-Jan-03, Added MCP6001
*   REV D: 19-Aug-06, Added over temperature, improved output stage, 
*                     fixed overdrive recovery time
*   REV E: 27-Jul-07, Updated output impedance for better model stability w/cap load
*
* Recommendations:
*   Use PSPICE (other simulators may require translation)
*   For a quick, effective design, use a combination of: data sheet
*     specs, bench testing, and simulations with this macromodel
*   For high impedance circuits, set GMIN=100F in .OPTIONS
*
* Supported:
*   Typical performance for temperature range (-40 to 125) degrees Celsius
*   DC, AC, Transient, and Noise analyses.
*   Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*     open loop gain, voltage ranges, supply current, ... , etc.
*   Temperature effects for Ibias, Iquiescent, Iout short circuit 
*   current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*   Some Variation in specs vs. Power Supply Voltage
*   Monte Carlo (Vos, Ib), Process variation
*   Distortion (detailed non-linear behavior)
*   Behavior outside normal operating region
*
* Input Stage
V10  3 10 -500M
R10 10 11 6.90K 
R11 10 12 6.90K 
C11 11 12 0.2p
C12 1  0 6.00P 
E12 71 14 POLY(4) 20 0 21 0 26 0 27 0   1m 20.1 20.1 1 1
G12 1 0 62 0 1m 
M12 11 14 15 15 NMI L=2U W=42U
M14 12  2 15 15 NMI L=2U W=42U
G14 2 0 62 0 1m 
C14  2  0 6P 
I15 15  4 50U
V16 16  4 -300M
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1n)(2m,1m)(3m,1)) 
V13  3 13 -300M
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1n)(2m,1m)(3m,1)) 
R70 1 0 20.6T  
R71 2 0 20.6T 
R72 1 2 20T 
I80 1 2 0.5p
*
* Noise, PSRR, and CMRR
c2120 21 20 10f
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
G26  0 26 POLY(1) 3 4   110U -49U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0   -440U 39.7U 39.7U
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 POLY(1) 12 11   0 1
R30 30  0 1K
G31  0 31 POLY(1) 3 4 86 5.25
R31 31  0 1 TC=2.8m
c3130 30 0 100f
GD31 30 31 TABLE {V(30,31)} ((-11,-1)(-10,-10n)(0,0)(1m,1000))
G32 32  0 POLY(1) 3 4 113.7 3.5
R32 32  0 1 TC=2.65m
GD32 30 32 TABLE {V(30,32)} ((-1m,-1000)(0,0)(10,10n)(11,1))
G33 0 33 30 0 1m
R33 33 0 1k
G34  0 34 33 0 425M
R34  34 0 1K
C34  34 0 74U
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 41.6P 
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 100U
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(16,1n))(16.1,1))
G36 33 0 TABLE {V(35,4)} ((-16.1,-1)((-16,-1n)(0,0)(1,1n))
*
* Output Stage 
cr80 50 0 100f     ;my
* --- ngspice port note (ANN_Kicad sim, 2026-07-16) ---
* Upstream line was:  BG50 0 50 i=V(57,96)*2 rpar=1k ;my
* "rpar" is an LTspice B-source extension meaning "1k resistor in parallel with
* this source". ngspice has no rpar, so it is written out explicitly below.
* This is an exact equivalent, not a behavioural change.
BG50 0 50 i=V(57,96)*2
Rpar50 0 50 1k
* --- end port note ---
R58 57  96 0.5
Cr58 57 96 2n    ;my
R57 57  0 750
Cr57 57 0 1p     ;my
C58  5  0 2P
G57  0 57 POLY(3) 3 0 4 0 35 0   0 0.67M 0.67M 1.5M
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 -0.7m 1 -40m
E56 56  0 POLY(2) 4 0 52 0 1.2m 1 -37m
R51 51 0 1k
R52 52 0 1k
BD51 51 0 v=uramp(v(50)) ;my
BD52 52 0 v=-uramp(v(50)) ;my
G53  3  0 POLY(1) 51 0  -49U 1M
G54  0  4 POLY(1) 52 0  -49U -1M
*
* Current Limit 
G99 96 5 99 0 1 
R98 0 98 1 TC=-2.8M,2.63U 
G97 0 98 TABLE { V(96,5) } ((-11.0,-10.0M)(-1.00M,-9.9M)(0,0)(1.00M,9.9M)
+ (11.0,10.0M)) 
E97 99 0 VALUE { V(98)*(V(3,4)*359M + 310M)} 
D98 4 5 DESD 
D99 5 3 DESD 
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 100 TC 3.11M 4.51U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)} 
+ ((0,0)(900M,0.0106U)(1.00,0.20U)(1.3,0.63U)
+ (1.5,0.66U)(1.6,1.06U)(5.5,1.10U))
*
* Temp Sensitive offset voltage 
I73 0 70 DC 1uA 
R74 0 70 1 TC=2 
E75 1 71 70 0 1 
*
* Temp Sensistive IBias 
I62 0 62 DC 1uA 
R62 0 62 REXP 58.2u 
* Voltage on R62 used for G12, G14 in input stage
*
* Models
.MODEL NMI NMOS
.MODEL DESD  D   N=1 IS=1.00E-15 
.MODEL DL  D   N=1 IS=1F 
.MODEL DN1 D   IS=1P KF=146E-18 AF=1
.MODEL REXP RES TCE=10.1 
.ENDS MCP6001
